US07696231B2
a) Preparation of methyl 3-[(4-cyanobenzoyl)amino]benzoate (compound C, Scheme 2)
To a solution of methyl 4-aminobenzoate (500 mg, 3.31 mmol) in anydrous pyridine (10 mL) was added dropwise 4-cyanobenzoyl chloride (660 mg, 4.0 mmol) at 0° C. After 5 min the temperature was allowed to warm up to rt. After 3 hrs aminomethyl resin (Polymers Laboratories PL-AMS, 1.96 mmol/g, 720 mg) was added and the resulting mixture was stirred overnight at rt. After rinsing the resin and filtration, water (25 mL) was added to the filtrate and a beige solid precipated out. Filtration and washing with water gave a solid which was dried under vacuo at 60° C. for 5 hrs. The title compound (774 mg) was obtained as a beige solid (83%) in 97.7% purity by HPLC (MaxPlot detection between 230 and 400 nm) 1H NMR (300 MHz, DMSO-d6) δ 10.68 (s, 1H), 8.45 (m, 1H), 8.12 (d, J=8.3 Hz, 2H), 8.05 (m, 3H), 7.71 (d, J=7.8 Hz, 1H), 7.52 (dd, J=7.9, 7.8 Hz, 1H), 3.86 (s, 3H).

reactant | methyl 4-aminobenzoate | 3.31 mmol, 500 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 4-cyanobenzoyl chloride | 4.0 mmol, 660 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | methyl 3-[(4-cyanobenzoyl)amino]benzoate | 774 mg | C(#N)C1=CC=C(C(=O)NC=2C=C(C(=O)OC)C=CC2)C=C1 | C16H12N2O3
